* File: DFF.pex.netlist
* Created: Thu Mar 27 17:02:41 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* 
.include "DFF.pex.netlist.pex"
.subckt DFF  GND! VDD! D R CLK OUT
* 
* OUT	OUT
* CLK	CLK
* R	R
* D	D
* VDD!	VDD!
* GND!	GND!
MM7 N_NET13_MM7_d N_D_MM7_g N_GND!_MM7_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM6 N_NET9_MM6_d N_NET1_MM6_g N_NET13_MM6_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM12 N_NET9_MM12_d N_NET2_MM12_g N_NET20_MM12_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM13 N_NET20_MM13_d N_NET19_MM13_g N_GND!_MM13_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM24 N_NET19_MM24_d N_NET9_MM24_g N_GND!_MM24_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM25 N_NET19_MM25_d N_R_MM25_g N_GND!_MM25_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM4 N_NET1_MM4_d N_CLK_MM4_g N_GND!_MM4_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM5 N_NET2_MM5_d N_NET1_MM5_g N_GND!_MM5_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM29 N_NET24_MM29_d N_R_MM29_g N_GND!_MM29_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM28 N_NET24_MM28_d N_NET17_MM28_g N_GND!_MM28_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM21 N_NET25_MM21_d N_NET24_MM21_g N_GND!_MM21_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM20 N_NET17_MM20_d N_NET1_MM20_g N_NET25_MM20_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM16 N_NET17_MM16_d N_NET2_MM16_g N_NET22_MM16_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM17 N_NET22_MM17_d N_NET19_MM17_g N_GND!_MM17_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM8 N_OUT_MM8_d N_NET17_MM8_g N_GND!_MM8_s N_GND!_MM7_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM2 N_NET6_MM2_d N_D_MM2_g N_VDD!_MM2_s N_VDD!_MM2_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM3 N_NET9_MM3_d N_NET2_MM3_g N_NET6_MM3_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM11 N_NET9_MM11_d N_NET1_MM11_g N_NET18_MM11_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM10 N_NET18_MM10_d N_NET19_MM10_g N_VDD!_MM10_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM22 N_NET26_MM22_d N_NET9_MM22_g N_VDD!_MM22_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM23 N_NET19_MM23_d N_R_MM23_g N_NET26_MM23_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM0 N_NET1_MM0_d N_CLK_MM0_g N_VDD!_MM0_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM1 N_NET2_MM1_d N_NET1_MM1_g N_VDD!_MM1_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM27 N_NET24_MM27_d N_R_MM27_g N_NET27_MM27_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM26 N_NET27_MM26_d N_NET17_MM26_g N_VDD!_MM26_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM18 N_NET23_MM18_d N_NET24_MM18_g N_VDD!_MM18_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM19 N_NET17_MM19_d N_NET2_MM19_g N_NET23_MM19_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM15 N_NET17_MM15_d N_NET1_MM15_g N_NET21_MM15_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM14 N_NET21_MM14_d N_NET19_MM14_g N_VDD!_MM14_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM9 N_OUT_MM9_d N_NET17_MM9_g N_VDD!_MM9_s N_VDD!_MM2_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
*
.include "DFF.pex.netlist.DFF.pxi"
*
.ends
*
*
