* File: DFF.pex.netlist.pex
* Created: Thu Mar 27 17:02:41 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_DFF%GND! 18 22 31 72 77 78 79 80 81 82 83 84 85 86 87 111 180 181 182
c6 72 0 0.0789334f
r7 198 201 10
r8 192 195 16.6667
r9 188 192 10
r10 182 201 10
r11 181 195 0.679012
r12 181 198 15.9877
r13 180 188 10
r14 175 182 11.1543
r15 170 175 1.66667
r16 168 170 3.33333
r17 166 182 2.99177
r18 166 168 1.66667
r19 163 166 1.66667
r20 160 201 2.99177
r21 160 163 8.33333
r22 158 198 2.99177
r23 158 160 10
r24 156 158 11.6667
r25 154 195 2.99177
r26 154 156 5
r27 150 154 1.66667
r28 144 192 2.99177
r29 144 150 15
r30 141 188 2.99177
r31 141 144 10
r32 139 141 8.33333
r33 137 180 2.99177
r34 137 139 1.66667
r35 72 175 17.142
r36 72 111 77.6786
r37 67 86 6.2963
r38 67 87 6.2963
r39 65 168 12.142
r40 65 67 66.0268
r41 60 84 6.2963
r42 60 85 6.2963
r43 50 81 6.2963
r44 50 82 6.2963
r45 48 150 12.142
r46 48 50 66.0268
r47 38 78 6.2963
r48 38 79 6.2963
r49 31 137 13.8086
r50 31 77 71.5823
r51 24 170 3.41493
r52 24 72 138.187
r53 22 65 0.431548
r54 22 24 68.8775
r55 20 163 2.27662
r56 20 22 68.8775
r57 18 60 66.4583
r58 18 20 344.388
r59 16 83 72.0139
r60 16 18 137.755
r61 14 156 3.41493
r62 14 16 137.755
r63 11 150 2.27662
r64 11 48 0.431548
r65 11 14 137.755
r66 9 80 72.0139
r67 9 11 206.633
r68 7 38 66.4583
r69 7 9 137.755
r70 5 139 2.27662
r71 5 7 344.388
r72 5 31 69.3091
.ends

.subckt PM_DFF%VDD! 37 44 51 58 69 77 78 79 80 81 82 83 84 85 98 172
c8 69 0 0.095092f
r9 190 193 10
r10 188 190 10
r11 182 185 16.6667
r12 178 182 10
r13 172 185 0.185185
r14 172 188 16.4815
r15 167 193 11.1543
r16 162 167 1.66667
r17 160 162 3.33333
r18 158 193 2.99177
r19 158 160 1.66667
r20 156 158 1.66667
r21 154 190 2.99177
r22 154 156 8.33333
r23 152 154 1.66667
r24 150 152 6.66667
r25 146 188 2.99177
r26 146 150 1.66667
r27 144 146 8.33333
r28 142 185 2.99177
r29 142 144 8.33333
r30 137 142 1.66667
r31 135 182 2.99177
r32 135 137 15
r33 132 135 1.66667
r34 130 132 6.66667
r35 128 178 2.99177
r36 128 130 1.66667
r37 126 128 8.33333
r38 124 178 12.9918
r39 124 126 1.66667
r40 69 167 17.142
r41 69 98 77.6786
r42 61 160 12.142
r43 58 84 6.2963
r44 58 85 6.2963
r45 58 61 66.0268
r46 54 150 12.142
r47 51 82 6.2963
r48 51 83 6.2963
r49 51 54 66.0268
r50 47 137 12.142
r51 44 80 6.2963
r52 44 81 6.2963
r53 44 47 66.0268
r54 40 132 12.142
r55 37 78 6.2963
r56 37 79 6.2963
r57 37 40 66.0268
r58 33 124 13.8086
r59 33 77 71.5823
r60 25 162 3.41493
r61 25 69 138.187
r62 23 61 0.431548
r63 23 25 68.8775
r64 21 156 2.27662
r65 21 23 68.8775
r66 19 152 2.27662
r67 19 21 206.633
r68 17 54 0.431548
r69 17 19 137.755
r70 15 144 2.27662
r71 15 17 206.633
r72 12 137 2.27662
r73 12 47 0.431548
r74 12 15 206.633
r75 9 132 6.82986
r76 9 40 0.431548
r77 9 12 344.388
r78 7 130 2.27662
r79 7 9 137.755
r80 5 126 2.27662
r81 5 33 69.3091
r82 5 7 206.633
.ends

.subckt PM_DFF%D 6 7 25
c0 7 0 0.00175726f
r1 2 25 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_DFF%NET2 33 34 35 36 53 57 83 94 104
c9 83 0 0.0229679f
r10 104 130 50.224
r11 94 130 29.037
r12 83 130 8.97531
r13 57 83 30.7636
r14 53 83 27.492
r15 36 94 322.612
r16 35 104 325.45
r17 34 94 322.736
r18 33 104 319.622
.ends

.subckt PM_DFF%NET1 38 39 40 41 42 43 65 69 97 145 146
c12 65 0 0.0168282f
r13 146 151 40.5569
r14 145 151 27.2236
r15 97 151 8.97531
r16 97 112 9.20106
r17 69 97 15.942
r18 65 112 47.5813
r19 43 146 321.311
r20 41 145 327.836
r21 40 146 327.836
r22 38 145 321.311
r23 12 112 6.07099
r24 12 42 310.982
r25 12 39 310.982
.ends

.subckt PM_DFF%NET19 7 23 24 25 26 37 38 41 97
c8 38 0 0.0159514f
r9 54 97 4.56672
r10 41 97 31.1724
r11 12 37 6.2963
r12 12 38 6.2963
r13 12 54 33.69
r14 7 97 61.3775
r15 7 26 310.982
r16 7 24 310.982
r17 2 54 13.6054
r18 2 25 310.982
r19 2 23 310.982
.ends

.subckt PM_DFF%NET9 2 20 21 27 28 31 32 56
c7 28 0 0.0148152f
r8 18 56 77.6356
r9 18 27 6.2963
r10 18 28 6.2963
r11 10 56 3.03549
r12 10 31 5.93915
r13 10 32 26.6534
r14 2 56 28.3585
r15 2 21 310.982
r16 2 20 310.982
.ends

.subckt PM_DFF%R 7 11 12 13 14 54
c6 13 0 0.00374797f
r7 27 54 18.5679
r8 7 27 46.9422
r9 7 14 310.982
r10 7 12 310.982
r11 2 27 6.07099
r12 2 13 310.982
r13 2 11 310.982
.ends

.subckt PM_DFF%CLK 6 7 24
c0 7 0 0.00191391f
r1 2 24 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_DFF%NET17 25 26 27 28 39 40 43 44 84
c9 40 0 0.0145455f
r10 61 84 21.3069
r11 23 84 61.0342
r12 23 39 6.2963
r13 23 40 6.2963
r14 15 61 3.03549
r15 15 43 5.93915
r16 15 44 26.6534
r17 7 84 6.07099
r18 7 28 310.982
r19 7 26 310.982
r20 2 61 21.6918
r21 2 27 310.982
r22 2 25 310.982
.ends

.subckt PM_DFF%NET24 13 18 19 25 26 29 40
c5 29 0 0.0135437f
r6 29 40 37.9414
r7 13 25 6.2963
r8 13 26 6.2963
r9 13 40 31.1007
r10 2 40 13.7906
r11 2 19 310.982
r12 2 18 310.982
.ends

.subckt PM_DFF%OUT 13 17 45
c0 13 0 0.00841032f
r1 24 45 18.5679
r2 17 24 53.871
r3 13 24 57.5703
.ends

.subckt PM_DFF%NET13 7 8
c2 8 0 0.00659995f
r3 7 8 22.2354
.ends

.subckt PM_DFF%NET6 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

.subckt PM_DFF%NET20 7 8
c1 8 0 0.00665562f
r2 7 8 22.2354
.ends

.subckt PM_DFF%NET18 5 6
c2 6 0 0.00434545f
r3 5 6 12.5926
.ends

.subckt PM_DFF%NET26 5 6
c0 6 0 0.00433674f
r1 5 6 12.5926
.ends

.subckt PM_DFF%NET27 5 6
c0 6 0 0.00433652f
r1 5 6 12.5926
.ends

.subckt PM_DFF%NET25 7 8
c2 8 0 0.00659995f
r3 7 8 22.2354
.ends

.subckt PM_DFF%NET23 5 6
c2 6 0 0.00434545f
r3 5 6 12.5926
.ends

.subckt PM_DFF%NET22 7 8
c3 8 0 0.00659995f
r4 7 8 22.2354
.ends

.subckt PM_DFF%NET21 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

