* File: INV.pex.netlist
* Created: Thu Mar 27 20:31:34 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* 
.include "INV.pex.netlist.pex"
.subckt INV  GND! VDD! A OUT
* 
* OUT	OUT
* A	A
* VDD!	VDD!
* GND!	GND!
MM2 N_OUT_MM2_d N_A_MM2_g N_GND!_MM2_s N_GND!_MM2_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM5 N_OUT_MM5_d N_A_MM5_g N_VDD!_MM5_s N_VDD!_MM5_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
*
.include "INV.pex.netlist.INV.pxi"
*
.ends
*
*
