* File: INV.pex.netlist.pex
* Created: Thu Mar 27 20:31:34 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_INV%GND! 32 42 68
c0 32 0 0.00746539f
r1 68 73 0.0617284
r2 63 73 22.2469
r3 60 63 3.33333
r4 56 60 3.33333
r5 53 73 2.99177
r6 53 56 1.66667
r7 27 63 12.142
r8 27 42 66.0268
r9 15 53 13.8086
r10 15 32 71.5823
r11 9 63 6.82986
r12 9 27 0.431548
r13 7 60 12.5735
r14 7 9 68.8775
r15 5 56 2.27662
r16 5 7 68.8775
r17 5 15 69.3091
.ends

.subckt PM_INV%VDD! 30 35 59
c0 7 0 0.0179465f
r1 59 63 0.555556
r2 53 63 22.2469
r3 49 53 6.66667
r4 46 63 2.99177
r5 46 49 1.66667
r6 22 53 12.142
r7 22 35 66.0268
r8 14 46 13.8086
r9 14 30 71.5823
r10 7 53 6.82986
r11 7 22 0.431548
r12 5 49 2.27662
r13 5 14 69.3091
r14 5 7 137.755
.ends

.subckt PM_INV%A 6 7 24
c0 7 0 0.00208075f
r1 2 24 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_INV%OUT 13 17 45
c0 13 0 0.00765449f
r1 24 45 18.5679
r2 17 24 35.433
r3 13 24 35.433
.ends

